US05696138
N-(1-naphthyl)-N'-(2-hydroxy-5-(trifluoromethyl)phenyl) urea.
2-hydroxy-5-(trifluoromethyl)aniline (0.12 g, 0.7 mmol) in toluene (3 ml) was added to a solution of alpha-naphthyl isocyanate (0.11 g, 0.7 mmol) in toluene (3 ml). The reaction was stirred at RT overnight and the product filtered off. 0.17 g (72%) of the title compound was isolated. M.p. 205°-207° C.

reactant | 2-hydroxy-5-(trifluoromethyl)aniline | 0.7 mmol, 0.12 g | OC1=C(N)C=C(C=C1)C(F)(F)F | C7H6F3NO
reactant | alpha-naphthyl isocyanate | 0.7 mmol, 0.11 g | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1-naphthyl)-N'-(2-hydroxy-5-(trifluoromethyl)phenyl) urea | 0.17 g, 72% | C1(=CC=CC2=CC=CC=C12)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)O | C18H13F3N2O2
